US08372823B2
4-(4-(Benzyloxy)phenyl)-2-hydroxybutanenitrile (S50).
A solution of 3-(4-(benzyloxy)phenyl)propanal (S49, 700 mg, 3.07 mmol, 1 equiv) in THF (13 mL) and H2O (18 mL) was treated with KCN (2.30 g, 35.3 mmol, 11.5 equiv). After stirring for 50 h at 25° C., the reaction was quenched with H2O and extracted with ether. The organic layer was washed with saturated aqueous NaCl, dried over Na2SO4, filtered and concentrated to afford S50 (755 mg, 2.96 mmol, 96%) as a white solid: 1H NMR (CDCl3, 400 MHz) 7.47-7.33 (m, 5H), 7.14 (d, 2H, J=8.8 Hz), 6.95 (d, 2H, J=8.8 Hz), 5.06 (s, 2H), 4.39 (t, 1H, J=6.9 Hz), 2.82-2.77 (m, 2H), 2.17-2.10 (m, 2H); 13C NMR (CDCl3, 100 MHz) 157.3, 136.9, 131.9, 129.4, 128.5, 127.9, 127.4, 119.9, 115.0, 70.0, 60.2, 36.6, 29.7; IR (film) νmax 3444, 2927, 2865, 2250, 1611, 1583, 1514, 1454, 1382, 1246, 1177, 1079, 1024, 912, 830, 738, 695 cm−1.

reactant | 3-(4-(benzyloxy)phenyl)propanal | 3.07 mmol, 700 mg, 1 equiv | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCC=O | C16H16O2
reactant | KCN | 35.3 mmol, 2.30 g, 11.5 equiv | [C-]#N.[K+]
solvent | THF | 13 mL | C1CCOC1 | C4H8O
solvent | H2O | 18 mL | O | H2O
product | 4-(4-(Benzyloxy)phenyl)-2-hydroxybutanenitrile | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCC(C#N)O | C17H17NO2
